US04762843
5,6-Dihydro-4H-thiazolo[4',5':3,4]cyclohepta[1,2-b]pyridin-2-amine
A solution of 6.78 g (21.12 mmol) of 6-bromo-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-one, hydrobromide and 1.93 g (25.35 mmol) of thiourea in 100 ml of water is heated on a steam bath for 2 hours. The mixture is filtered hot through a pad of Celite to remove a small amount of insoluble solid. The filtrate is cooled, basified with ammonium hydroxide, and a precipitate is collected. Recrystallization from acetonitrile affords 4.26 g (92.8%) of the title compound as a tan solid; mp 220°-222° C. (dec.).

reactant | 6-bromo-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-one, hydrobromide | 21.12 mmol, 6.78 g | Br.BrC1C(C=2C(=NC=CC2)CCC1)=O
reactant | thiourea | 25.35 mmol, 1.93 g | NC(=S)N | CH4N2S
solvent | water | 100 ml | O | H2O
product | 5,6-Dihydro-4H-thiazolo[4',5':3,4]cyclohepta[1,2-b]pyridin-2-amine | 4.26 g, 92.8% | N1=C(SC2=C1C=1C(=NC=CC1)CCC2)N | C11H11N3S
